US09351974B2
Step d: Synthesis of 7-chloro-2-methyl-1-(3-methylbutyl)-4-phenyl-1,4-dihydropyrido[3,4-b]pyrazin-3(2H)-one
To a stirred solution of 7-chloro-2-methyl-1-(3-methylbutyl)-1,4-dihydropyrido[3,4-b]pyrazin-3(2H)-one (103 mg, 0.38 mmol) in dichloromethane (7 mL) was added triethylamine (0.53 mL, 3.8 mmol), cupric acetate (140 mg, 0.77 mmol) and phenylboronic acid (94 mg, 0.77 mmol) followed by 4 Å molecular sieves (2.0 g). The reaction mixture was stirred for 30 h at rt with an air balloon. It was then filtered over celite to remove inorganic material, the organic phase was washed with aqueous sodium carbonate, dried with Na2SO4, and the solvent was removed under reduced pressure to give a crude residue, which was purified by silica gel flash column chromatography (eluent: 40% ethyl acetate in hexane) to give the desired product (Yield: 49%). 1HNMR (CDCl3, 300 MHz) δ 1.07-1.18 (m, 6H), 1.47 (d, J=6.6 Hz, 3H), 1.69-1.86 (m, 4H), 3.18-3.26 (m, 1H), 3.48-3.58 (m, 1H), 4.32 (q, J=6.9 Hz, 1H), 6.62 (s, 1H), 6.87-7.05 (m, 1H), 7.27-7.35 (m, 2H), 7.39 (s, 1H), 7.53-7.65 (m, 3H).

reactant | 7-chloro-2-methyl-1-(3-methylbutyl)-1,4-dihydropyrido[3,4-b]pyrazin-3(2H)-one | 0.38 mmol, 103 mg | ClC1=CC2=C(NC(C(N2CCC(C)C)C)=O)C=N1 | C13H18ClN3O
reactant | triethylamine | 3.8 mmol, 0.53 mL | C(C)N(CC)CC | C6H15N
reactant | phenylboronic acid | 0.77 mmol, 94 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | 7-chloro-2-methyl-1-(3-methylbutyl)-4-phenyl-1,4-dihydropyrido[3,4-b]pyrazin-3(2H)-one | Yield: 49% | ClC1=CC2=C(N(C(C(N2CCC(C)C)C)=O)C2=CC=CC=C2)C=N1 | C19H22ClN3O
